US04927819
Step C 2-Bromo-5-p-toluenesulphonyloxymethyl-dibenzo [a,d]cycloheptene
To a solution of 2-bromo-5-hydroxymethyl-dibenzo [a,d]cycloheptene (6.1 g) in dry dichloromethane (60 ml) was added p-toluenesulphonyl chloride (4.9 g). pyridine (4 g) and 4-dimethylamino pyridine (100 mg). The reaction mixture was refluxed for 14 h, cooled, washed with water (2×50 ml), dried (Na2SO4), filtered and concentrated in vacuo. The residue. was purified by flash silica chromatography using 10% ethyl acetate in hexane as eluent to give the title compound as a colourless oil (8.2 g). δ (360 MHz, CDCl3) 2.46 (3H, s, CH3), 4.12 (1H, dd J=6.2 and 3.5 Hz, CH--CH2 --O), 4.24-4.32 (2H, m, CH--CH2 --O), 6.50 (1H, d, J=11.9 Hz, CHA =CHB), 6.73 (1H, d, J=11.9 Hz, CHA =CHB), 7.10-7.40 (11H, m, ArH).

reactant | 2-bromo-5-hydroxymethyl-dibenzo [a,d]cycloheptene | 6.1 g | BrC1=CC2=C(C(C3=C(C=C2)C=CC=C3)CO)C=C1 | C16H13BrO
reactant | p-toluenesulphonyl chloride | 4.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 4 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylamino pyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Bromo-5-p-toluenesulphonyloxymethyl-dibenzo [a,d]cycloheptene | 8.2 g | BrC1=CC2=C(C(C3=C(C=C2)C=CC=C3)COS(=O)(=O)C3=CC=C(C=C3)C)C=C1 | C23H19BrO3S
